US08048902B2
Following the procedure described in Example 36, Step 6, [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(3-hydroxy-phenyl)-ethyl ester and [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester were reacted to provide (4′-{4-[(R)-1-(3-hydroxy-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid ethyl ester, which was hydrolyzed to the acid as described in Example 34, Step 2.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(3-hydroxy-phenyl)-ethyl ester | OC=1C=C(C=CC1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H17BrN2O4
reactant | [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO4
product | (4′-{4-[(R)-1-(3-hydroxy-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)O[C@H](C)C1=CC(=CC=C1)O)=O | C29H28N2O6
